US07030128B2
3-[2-(3,4-Difluorophenyl)pyrimidin-4-yl]-7-(1-methyl-1-triethylsilanyloxyethyl)imidazo[1,2-α]pyrimidine in EtOH (8 ml) was treated with conc. HCl (15 drops) and stirred at room temperature for 12 h. The resulting solid was filtered off and dried under reduced pressure. The resulting solid was added to a mixture of 1N NaOH (30 ml) and CH2Cl2 and stirred vigorously for 5 min. The organics were separated and the aqueous fraction extracted with CH2Cl2 (3×20 ml). The combined organic extracts were dried (MgSO4) and concentrated under reduced pressure to yield 2-{3-[2-(3,4-difluorophenyl)pyrimidin-4-yl]imidazo[1,2-α]pyrimidin-7-yl}propan-2-ol (74 mg, 33%): 1H NMR (400 MHz, d6-DMSO) δ 10.16 (1H, d, J 7.3), 8.90 (1H, d, J 5.5), 8.82 (1H, s), 8.40-8.30 (2H, m), 8.03 (1H, d, J 5.5), 7.73 (1H, d, J 7.3), 7.17-7.08 (1H, m), 7.61 (1H, s), 1.55 (6H, s).

reactant | 3-[2-(3,4-Difluorophenyl)pyrimidin-4-yl]-7-(1-methyl-1-triethylsilanyloxyethyl)imidazo[1,2-α]pyrimidine | FC=1C=C(C=CC1F)C1=NC=CC(=N1)C1=CN=C2N1C=CC(=N2)C(C)(O[Si](CC)(CC)CC)C | C25H29F2N5OSi
solvent | EtOH | 8 ml | CCO | C2H6O
catalyst | HCl | 15 drops | Cl | ClH
product | 2-{3-[2-(3,4-difluorophenyl)pyrimidin-4-yl]imidazo[1,2-α]pyrimidin-7-yl}propan-2-ol | 74 mg, 33% | FC=1C=C(C=CC1F)C1=NC=CC(=N1)C1=CN=C2N1C=CC(=N2)C(C)(C)O | C19H15F2N5O
